US08106043B2
tert-Butyl 4-(4-fluoro-2-(2-hydroxyethylthio)-5-nitrophenylamino)piperidine-1-carboxylate:
To a stirred solution of 2-(2-amino-5-fluoro-4-nitrophenylthio)ethanol (434 mg, 1.869 mmol) and tert-butyl 4-oxopiperidine-1-carboxylate (372 mg, 1.869 mmol) in dichloroethane (10 mL) and acetic acid (0.321 mL, 5.61 mmol) was added sodium triacetoxyborohydride (594 mg, 2.80 mmol). The resulting mixture was stirred at room temperature. After 1 hour, additional tert-butyl 4-oxopiperidine-1-carboxylate (372 mg, 1.869 mmol) was added, followed by additional sodium triacetoxyborohydride (594 mg, 2.80 mmol). After a further 3 hours, more tert-butyl 4-oxopiperidine-1-carboxylate (372 mg, 1.869 mmol) was added followed by more sodium triacetoxyborohydride (594 mg, 2.80 mmol). The reaction mixture was stirred overnight. The mixture was then quenched with 1 N NaOH (10 mL), water (20 mL), and saturated sodium carbonate (20 mL). The organic products were then extracted with dichloromethane (3×20 mL). The combined organics were dried, filtered, concentrated, and then chromatographed using 1:3 ethyl acetate:hexanes on silica gel to give the desired product (710 mg, 91%). 1H NMR (DMSO-d6) δ 7.45 (d, J=12.0 Hz, 1H), 7.23 (d, J=6.6 Hz, 1H), 5.08 (t, J=5.4 Hz, 1H), 5.02 (d, J=8.1 Hz, 1H), 3.96-3.84 (m, 2H), 3.69-3.55 (m, 5H), 2.99-2.83 (m, 2H), 1.92-1.83 (m, 2H), 1.45-1.18 (m, 11H); ESI-MS (m/z, %): 360 (100), 128 (30).

reactant | 2-(2-amino-5-fluoro-4-nitrophenylthio)ethanol | 1.869 mmol, 434 mg | NC1=C(C=C(C(=C1)[N+](=O)[O-])F)SCCO | C8H9FN2O3S
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 1.869 mmol, 372 mg | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | acetic acid | 5.61 mmol, 0.321 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 2.80 mmol, 594 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 1.869 mmol, 372 mg | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | sodium triacetoxyborohydride | 2.80 mmol, 594 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 1.869 mmol, 372 mg | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | sodium triacetoxyborohydride | 2.80 mmol, 594 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | tert-Butyl 4-(4-fluoro-2-(2-hydroxyethylthio)-5-nitrophenylamino)piperidine-1-carboxylate | 710 mg, 91% | FC1=CC(=C(C=C1[N+](=O)[O-])NC1CCN(CC1)C(=O)OC(C)(C)C)SCCO | C18H26FN3O5S
